US07867980B2
Tert-Butyl 1-(5-bromopyridin-2-yl)pyrrolidin-3-ylcarbamate
5-Bromo-2-fluoropyridine (1.76 mg, 10 mmol) and 3.62 g (10 mmol) of tert-butyl pyrrolidin-3-ylcarbamate were dissolved in 20 ml of N,N-dimethylformamide. Potassium carbonate (1.38 g, 10 mmol) was added to the solution, and the mixture was stirred at 100° C. for 6 hr. Ethyl acetate (60 ml) and 8.5 ml of water were added to the reaction solution, and the organic layer was washed five times with 30 ml of water. The organic layer was dried over anhydrous sodium sulfate and was filtered. The solvent was then removed by distillation, and the residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=4:1) to give 1.23 g (yield 36%) of the title compound.

reactant | 5-Bromo-2-fluoropyridine | 10 mmol, 1.76 mg | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | tert-butyl pyrrolidin-3-ylcarbamate | 10 mmol, 3.62 g | N1CC(CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | Potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 8.5 ml | O | H2O
product | Tert-Butyl 1-(5-bromopyridin-2-yl)pyrrolidin-3-ylcarbamate | 1.23 g, yield 36% | BrC=1C=CC(=NC1)N1CC(CC1)NC(OC(C)(C)C)=O | C14H20BrN3O2
